US09376422B2
To a stirred solution of methyl 3-(cyclopentylamino)-2-methyl-5-(trifluoromethyl)benzoate (1.6 g, 5.38 mmol) in acetonitrile (25 mL) was added cesium carbonate (3.5 g, 10.7 mmol) and methyl iodide (3.8 g, 26.8 mmol). The mixture was heated at 80° C. for 8 h. On completion, the reaction was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to give methyl 3-(cyclopentyl(methyl)amino)-2-methyl-5-(trifluoromethyl)benzoate.

reactant | methyl 3-(cyclopentylamino)-2-methyl-5-(trifluoromethyl)benzoate | 5.38 mmol, 1.6 g | C1(CCCC1)NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C15H18F3NO2
reactant | cesium carbonate | 10.7 mmol, 3.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 26.8 mmol, 3.8 g | CI | CH3I
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | methyl 3-(cyclopentyl(methyl)amino)-2-methyl-5-(trifluoromethyl)benzoate | C1(CCCC1)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C | C16H20F3NO2
